US09102591B2
2-Chloro-N-(2-isopropoxy-2-(2-methylpyrimidin-5-yl)ethyl)benzamide
From 2-chlorobenzoic acid and 2-isopropoxy-2-(2-methylpyrimidin-5-yl)ethanamine. LCMS (MH+): m/z=334.0, tR (minutes, Method E)=0.52

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-isopropoxy-2-(2-methylpyrimidin-5-yl)ethanamine | C(C)(C)OC(CN)C=1C=NC(=NC1)C | C10H17N3O
product | 2-Chloro-N-(2-isopropoxy-2-(2-methylpyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C)OC(C)C)C=CC=C1 | C17H20ClN3O2
